US03965101
D. 2-Amino-1-[(o-bromophenoxy)methyl]pyrimidinium chloride
To a solution of 7.1 g of 2-aminopyrimidine in 35 ml of xylene is added, dropwise,, a solution of 11.1 g of o-bromo-α-chloroanisole in 45 ml of xylene. The mixture is warmed at 50° for 5 minutes and allowed to stir for 40 hours at room temperature. The solid is filtered and dried to give about 16.0 g of the product. This is recrystallized from 2-propanol to give about 14.0 g of the title product.

reactant | 2-aminopyrimidine | 7.1 g | NC1=NC=CC=N1 | C4H5N3
reactant | o-bromo-α-chloroanisole | 11.1 g | BrC1=C(C=CC=C1)OCCl | C7H6BrClO
solvent | xylene | 35 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 45 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Amino-1-[(o-bromophenoxy)methyl]pyrimidinium chloride | about 16.0 g | [Cl-].NC1=[N+](C=CC=N1)COC1=C(C=CC=C1)Br | InChI=1S/C11H10BrN3O.ClH/c12-9-4-1-2-5-10(9)16-8-15-7-3-6-14-11(15)13;/h1-7,13H,8H2;1H
